Filter
*SPICE Netlist generated by Advanced Sim server on 12/27/2024 4:47:42 PM
.options MixedSimGenerated

*Schematic Netlist:
CC1 NetC1_1 LP_1000HZ_OUT 100n
CC2 0 NetC2_2 100n
CC3 NetC3_1 LP_300HZ_OUT 100n
CC4 0 NetC4_2 100n
CC5 NetC5_1 NetC5_2 100n
CC6 NetC6_1 NetC5_2 100n
CC7 NetC7_1 NetC7_2 100n
CC8 NetC8_1 NetC7_2 100n
CC9 NetC9_1 NetC9_2 100n
CC10 NetC10_1 NetC9_2 100n
CC11 NetC11_1 BP_300HZ_3400HZ_OUT 100n
CC12 0 NetC12_2 100n
RR1 NetC3_1 NetR1_2 5305 TC1=0 TC2=0
RR2 NetC1_1 NetR2_2 1591 TC1=0 TC2=0
RR3 NetC2_2 NetC1_1 1591 TC1=0 TC2=0
RR4 NetC4_2 NetC3_1 5305 TC1=0 TC2=0
RR5 NetC5_2 HP_1000HZ_OUT 1591 TC1=0 TC2=0
RR6 NetC6_1 0 1591 TC1=0 TC2=0
RR7 NetC7_2 HP_300HZ_OUT 5305 TC1=0 TC2=0
RR8 NetC8_1 0 5305 TC1=0 TC2=0
RR9 NetC11_1 NetR9_2 468 TC1=0 TC2=0
RR10 NetC12_2 NetC11_1 468 TC1=0 TC2=0
RR11 NetC9_2 NetR9_2 5305 TC1=0 TC2=0
RR12 NetC10_1 0 5305 TC1=0 TC2=0
XU1 NetC2_2 LP_1000HZ_OUT LP_1000HZ_OUT IDEALOPAMP_3NODES PARAMS: GAIN=1Meg
XU2 NetC4_2 LP_300HZ_OUT LP_300HZ_OUT IDEALOPAMP_3NODES PARAMS: GAIN=1Meg
XU3 NetC6_1 HP_1000HZ_OUT HP_1000HZ_OUT IDEALOPAMP_3NODES PARAMS: GAIN=1Meg
XU4 NetC8_1 HP_300HZ_OUT HP_300HZ_OUT IDEALOPAMP_3NODES PARAMS: GAIN=1Meg
XU5 NetC10_1 NetR9_2 NetR9_2 IDEALOPAMP_3NODES PARAMS: GAIN=1Meg
XU6 NetC12_2 BP_300HZ_3400HZ_OUT BP_300HZ_3400HZ_OUT IDEALOPAMP_3NODES PARAMS:
+ GAIN=1Meg
VV1 NetR2_2 0 5 AC 1 0
VV2 NetR1_2 0 5 AC 1 0
VV3 NetC5_1 0 5 AC 1 0
VV4 NetC7_1 0 5 AC 1 0
VV5 NetC9_1 0 5 AC 1 0

.PLOT AC {dB(v(LP_300HZ_OUT))} =PLOT(1) =AXIS(1) =RGB(255, 0, 0)
.PLOT AC {dB(v(LP_1000HZ_OUT))} =PLOT(1) =AXIS(1) =RGB(255, 153, 0)
.PLOT AC {dB(v(HP_300HZ_OUT))} =PLOT(1) =AXIS(1) =RGB(255, 255, 0)
.PLOT AC {dB(v(HP_1000HZ_OUT))} =PLOT(1) =AXIS(1) =RGB(0, 255, 0)
.PLOT AC {dB(v(BP_300HZ_3400HZ_OUT))} =PLOT(1) =AXIS(1) =RGB(0, 255, 255)

*Selected Circuit Analyses:
.AC DEC 100 1 100k

*Models and Subcircuits:
* OPAMPS
*------------------------------------------------------------------------------------------------------------------
.SUBCKT IdealOpamp_3nodes  In+ In- Out PARAMS: GAIN=1Meg
E1 Out 0 In+ In- {Gain}
R1 In+ In- 1e12
.ENDS

.END